US08134004B2
Step A13B: 1-(1H-indazole-5-yl)-ethanone oxime
To a suspension of 1-(1H-indazole-5-yl)-ethanone (334 mg, 2.09 mmol) in EtOH-H2O (4:1, 10 ml) were added hydroxylamine hydrochloride (444 mg, 6.39 mmol) and sodium acetate (449 mg, 5.47 mmol). The reaction mixture was stirred at 80° C. for 15 hours and concentrated in vacuo. The residue was stirred with H2O at room temperature for 10 min. The solid obtained was collected by filtration, and rinsed with H2O. After drying, the title compound (260 mg, 71%) was obtained as a white solid. 1H NMR (270 MHz, DMSO-d6) δ ppm 2.22 (3H, s), 7.52 (1H, d, J=8.6 Hz), 7.79 (1H, d, J=8.6 Hz), 7.98 (1H, s), 8.10 (1H, s), 11.05 (1H, s), 13.13 (br.s, 1H). MS (ESI) m/z 176 (M+H)+, 174 (M−H)−.

reactant | 1-(1H-indazole-5-yl)-ethanone | 2.09 mmol, 334 mg | N1N=CC2=CC(=CC=C12)C(C)=O | C9H8N2O
reactant | hydroxylamine hydrochloride | 6.39 mmol, 444 mg | Cl.NO
reactant | sodium acetate | 5.47 mmol, 449 mg | C(C)(=O)[O-].[Na+]
solvent | EtOH-H2O | 10 ml | C(C)O.O
product | 1-(1H-indazole-5-yl)-ethanone oxime | 260 mg, 71% | N1N=CC2=CC(=CC=C12)C(C)=NO | C9H9N3O
